US06043248
2-Chloro-3-pyridinol (60 g, 0.46 mole) is dissolved in 700 ml water containing potassium carbonate (220 g, 1.6 mole) in a 21 one neck round bottom flask. The solution is treated with iodine (141 g, 0.56 mole) and the reaction is stirred 4 h at room temperature. The excess iodine is quenched with saturated sodium thiosulfate and the pH of the mixture is adjusted to 2 with 12 N hydrochloric acid. The mixture is extracted with 3×250 ml ethyl acetate. The combined organics are dried over magnesium sulfate and are concentrated in vacuo to a yellow solid. The crude solid is recrystallized from 150 ml ethyl acetate and 700 ml heptane to give 69 g (58%) of 2-chloro-3-hydroxy-6-iodo-pyridine. The mother liquor is concentrated to a yellow solid which is recrystallized from 60 ml ethyl acetate and 370 ml heptane to provide 15.5 g (13%).

reactant | 2-Chloro-3-pyridinol | 0.46 mole, 60 g | ClC1=NC=CC=C1O | C5H4ClNO
reactant | potassium carbonate | 1.6 mole, 220 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodine | 0.56 mole, 141 g | II | I2
solvent | water | 700 ml | O | H2O
product | 2-chloro-3-hydroxy-6-iodo-pyridine | 69 g, 58% | ClC1=NC(=CC=C1O)I | C5H3ClINO
